US04487945
1,4-Diethyl-3-cyclohexen-1-ol
To a stirred solution of 35 ml of 3.2M ethereal ethyl magnesium bromide (Aldrich) in 75 ml of dry ether was added dropwise at gentle reflux a solution of 10.0 g of 4-ethyl-3-cyclohexen-1-one in 25 ml of ether. After one hour longer at reflux, the mixture was cooled and treated dropwise with 80 ml of water. The aqueous layer was extracted with ether and the combined ether layers were dried, concentrated, and Claisen-distilled to give 7.3 g of the desired product, b.p. 82°-86° C. (5 mm).

reactant | ethyl magnesium bromide | 3.2M, 35 ml | C(C)[Mg]Br
reactant | 4-ethyl-3-cyclohexen-1-one | 10.0 g | C(C)C1=CCC(CC1)=O | C8H12O
reactant | water | 80 ml | O | H2O
solvent | ether | 75 ml | CCOCC | C4H10O
solvent | ether | 25 ml | CCOCC | C4H10O
product | 1,4-Diethyl-3-cyclohexen-1-ol | 7.3 g | C(C)C1(CC=C(CC1)CC)O | C10H18O
